US05795903
2-Trifluoromethoxy-5-nitrophenol can be prepared according to the following method: an aqueous sodium nitrite (0.82 g) solution (2 ml) is added dropwise to a suspension of 2.35 g of 2-trifluoromethoxy-5-nitroaniline in 17 ml of distilled water cooled to 5° C. and in the presence of 5 ml of concentrated hydrochloric acid. After stirring for 30 minutes at the same temperature, an aqueous sodium tetrafluoroborate (1.66 g) solution (5 ml) is added dropwise to the reaction mixture, which has become clear. After reacting for 30 minutes, still at the same temperature, the precipitate formed is filtered off, washed with water and dried. 1.85 g of 2-trifluoromethoxy-5-nitrophenyldiazonium tetrafluoroborate are thus obtained in the form of a white powder used without additional purification in the subsequent syntheses. This diazonium salt is then divided into 4 portions of approximately 0.5 g. Each portion is added to a solution of 150 g of copper nitrate (trihydrate) in 100 ml of distilled water. 0.15 g of copper oxide are then added and the reaction is continued for 30 minutes at a temperature in the region of 20° C. After filtering off the insoluble material on a Celite bed and washing with dichloromethane, the organic phase is extracted from the filtrate with dichloromethane and the 4 organic phases are combined and concentrated to dryness under reduced pressure. The crude product (1 g of brown oil) is purified by flash chromatography on a silica column, an ethyl acetate/cyclohexane (10/90 by volume) mixture being used as eluent. 0.4 g of the expected phenol is thus obtained in the form of a pale yellow powder [1H N.M.R. spectrum (200 MHz, d6-(CD3)2SO, δ in ppm): 7.61 (broad d, J=9 Hz, 1H, aromatic H meta to the OH), 7.78 (dd, J=9 and 2.5 Hz, 1H, aromatic H para to the OH), 7.86 (d, J=2.5 Hz, 1H, aromatic H ortho to the OH), 11.38 (broad unresolved peak, 1H, OH)].

reactant | 2-Trifluoromethoxy-5-nitrophenol | FC(OC1=C(C=C(C=C1)[N+](=O)[O-])O)(F)F | C7H4F3NO4
reactant | sodium nitrite | 0.82 g | N(=O)[O-].[Na+]
reactant | 2-trifluoromethoxy-5-nitroaniline | 2.35 g | FC(OC1=C(N)C=C(C=C1)[N+](=O)[O-])(F)F | C7H5F3N2O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium tetrafluoroborate | 1.66 g | F[B-](F)(F)F.[Na+]
solvent | water | 17 ml | O | H2O
product | 2-trifluoromethoxy-5-nitrophenyldiazonium tetrafluoroborate | 1.85 g | F[B-](F)(F)F.FC(OC1=C(C=C(C=C1)[N+](=O)[O-])[N+]#N)(F)F | InChI=1S/C7H3F3N3O3.BF4/c8-7(9,10)16-6-2-1-4(13(14)15)3-5(6)12-11;2-1(3,4)5/h1-3H;/q+1;-1
